US09145387B2
To a stirred solution of 2,4,5-trichloropyrimidine (1.3 g, 7.19 mmol) in NMP (3 mL), DIPEA (1.85 g, 14.3 mmol) and 2-nitrophenol (1 g, 7.19 mmol) were added and heated to 100° C. for 1 h. TLC showed completion of starting material (TLC system: 20% ethyl acetate in hexane (Rf): 0.3). The reaction mixture was poured into crushed ice (50 mL). The obtained solid was filtered, washed with water (50 mL) and dried to obtain 2,5-dichloro-4-(2-nitrophenoxy)pyrimidine as an off-white solid. (Yield: 1.7 g, 85%). 1H NMR (400 MHz, D6-DMSO) δ 8.98 (s, 1H), 8.25 (d, 1H), 7.92 (t, 1H), 7.70 (m, 2H).

reactant | 2,4,5-trichloropyrimidine | 7.19 mmol, 1.3 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | DIPEA | 14.3 mmol, 1.85 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-nitrophenol | 7.19 mmol, 1 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | hexane | CCCCCC | C6H14
product | 2,5-dichloro-4-(2-nitrophenoxy)pyrimidine | ClC1=NC=C(C(=N1)OC1=C(C=CC=C1)[N+](=O)[O-])Cl | C10H5Cl2N3O3
